US05703106
[N-(3,5-dimethylbenzoyl)-N-methyl-3-[4-(5-isoxazolyl)-phenyl]-(D)-alanyl]-(L)-tryptophane methyl ester (50 mg) is treated with lithiumhydroxide monohydrate (3.8 mg) in methanol (1 ml), tetrahydrofurane (0.5 ml), and water (0.5 ml), at 0° C. for 1 hour, and at room temperature for 2 hours. The mixture is then partitioned between water and ether, the water phase acidified with 1N hydrochloric acid, and subsequently extracted with ethyl acetate. The ethyl acetate phase is washed with brine, dried, and evaporated to give [N-(3,5-dimethylbenzoyl)-N-methyl-3-[4-(5-isoxazolyl)-phenyl]-(D)-alanyl]-(L)-tryptophane.

reactant | [N-(3,5-dimethylbenzoyl)-N-methyl-3-[4-(5-isoxazolyl)-phenyl]-(D)-alanyl]-(L)-tryptophane methyl ester | 50 mg | COC([C@@H](NC([C@H](N(C)C(C1=CC(=CC(=C1)C)C)=O)CC1=CC=C(C=C1)C1=CC=NO1)=O)CC1=CNC2=CC=CC=C12)=O | C34H34N4O5
reactant | lithiumhydroxide monohydrate | 3.8 mg | O.[OH-].[Li+]
reactant | water | 0.5 ml | O | H2O
solvent | methanol | 1 ml | CO | CH4O
solvent | tetrahydrofurane | 0.5 ml | O1CCCC1 | C4H8O
product | [N-(3,5-dimethylbenzoyl)-N-methyl-3-[4-(5-isoxazolyl)-phenyl]-(D)-alanyl]-(L)-tryptophane | CC=1C=C(C(=O)N([C@H](CC2=CC=C(C=C2)C2=CC=NO2)C(=O)N[C@@H](CC2=CNC3=CC=CC=C23)C(=O)O)C)C=C(C1)C | C33H32N4O5
